US07585885B2
N-Methyl-N-propyl-5-vinyl-isophthalamic acid
Stir a solution of N-methyl-N-propyl-5-vinyl-isophthalamic acid methyl ester (78 mg, 0.3 mmol), 1 N lithium hydroxide (1.5 mL, 1.5 mmol), and THF (1.5 mL) at room temperature overnight. Add water and extract with ethyl acetate. Acidify the aqueous with 5 N HCl, extract with ethyl acetate, dry (magnesium sulfate) and concentrate to give the title compound (52 mg, 70%).

reactant | N-methyl-N-propyl-5-vinyl-isophthalamic acid methyl ester | 0.3 mmol, 78 mg | COC(C1=CC(C(=O)N(CCC)C)=CC(=C1)C=C)=O | C15H19NO3
reactant | lithium hydroxide | 1.5 mmol, 1 N, 1.5 mL | [OH-].[Li+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | N-Methyl-N-propyl-5-vinyl-isophthalamic acid | 52 mg, 70% | CN(C(C=1C=C(C(=O)O)C=C(C1)C=C)=O)CCC | C14H17NO3
